US05849912
Synthesis of diethyl 2-(2-chloro-3-bromo-5-nitrobenzoyl)-2-methylmalonate
2.2 g of 55% sodium hydride was suspended in 30 ml of THF, followed by the addition of 50 ml of a THF solution of 8.65 ml (50.3 mmol) of diethyl methylmalonate under cooling with ice. The obtained mixture was stirred at room temperature for 20 minutes and cooled with ice again, followed by the dropwise addition of 85 ml of a THF solution of the 2-chloro-3-bromo-5-nitrobenzoyl chloride prepared in the above Example. The obtained mixture was stirred as such for 1.5 hours and then poured into an aqueous solution of ammonium chloride. The resulting mixture was extracted with ethyl acetate. The ethyl acetate phase was washed with a saturated aqueous solution of sodium hydrogen carbonate and a saturated brine, dried and distilled to remove the solvent. 30 ml of methylene chloride was added to the residue. The resulting mixture was freed from insolubles by filtration and concentrated under reduced pressure to give 21.77 g of the title compound (yield: quantitative).

reactant | sodium hydride | 2.2 g | [H-].[Na+]
reactant | diethyl methylmalonate | 50.3 mmol, 8.65 ml | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | 2-chloro-3-bromo-5-nitrobenzoyl chloride | ClC1=C(C(=O)Cl)C=C(C=C1Br)[N+](=O)[O-] | C7H2BrCl2NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 85 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | diethyl 2-(2-chloro-3-bromo-5-nitrobenzoyl)-2-methylmalonate | 21.77 g, yield: quantitative | ClC1=C(C(=O)C(C(=O)OCC)(C(=O)OCC)C)C=C(C=C1Br)[N+](=O)[O-] | C15H15BrClNO7
